US09399623B2
6-Chloro-2-(3-pyrrolidin-1-yl-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluorocyclo hexyl methyl)-amide (154)
The title compound was synthesized according to the procedure described in example 133 using 6-chloro-2-(3-oxo-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide, pyrrolidine, glacial acetic acid and sodium triacetoxyborohydride. 1H NMR (400 MHz, DMSO-d6): δ 8.80 (t, J=5.82 Hz, 1H), 8.01-7.95 (m, 2H), 7.76-7.74 (m, 1H), 7.61-7.56 (m, 1H), 3.55-3.44 (m, 1H), 3.43-3.41 (m, 1H), 3.27 (t, J=6.2 Hz, 2H), 2.74-2.66 (m, 1H), 2.64-2.50 (m, 1H), 2.27-2.24 (m, 1H), 2.10-1.99 (m, 5H), 1.89-1.76 (m, 6H), 1.75-1.68 (m, 2H), 1.33-1.29 (m, 5H), 1.27-1.24 (m, 2H). m/z: 476.2 [M+H]+

reactant | 6-chloro-2-(3-oxo-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CC(CC1)=O)F | C22H23ClF2N2O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Chloro-2-(3-pyrrolidin-1-yl-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluorocyclo hexyl methyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CC(CC1)N1CCCC1)F | C26H32ClF2N3O
